US07141569B2
To a cold (-78° C.) suspension of 5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde (0.90 g, 3.14 mmol) in tetrahydrofuran (50 mL) was added ethynylmagnesium bromide (7.5 mL, 0.5 M in tetrahydrofuran, 3.77 mmol) dropwise. The reaction mixture was stirred at −78° C. for 1 hour, then at room temperature for 4 hours. The resultant solution was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and brine and the combined organics were dried over magnesium sulfate. Filtration and concentration provided 1-[5-chloro-2-(4methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-propyn-1-ol (1.05 g, 100%) as a white solid. 1H NMR (CDCl3) δ 8.40 (d, 1H), 8.05 (s, 1H), 7.72 (d, 2H), 7.05 (d, 2H), 6.80 (dd, 1H), 5.78 (s, 1H), 3.91 (s, 3H), 2.74 (s, 1H), 2.53 (s, 1H); MS m/z 313 (M+1).

reactant | 5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde | 3.14 mmol, 0.90 g | ClC1=CC=2N(C=C1)N=C(C2C=O)C2=CC=C(C=C2)OC | C15H11ClN2O2
reactant | ethynylmagnesium bromide | 3.77 mmol, 0.5 M, 7.5 mL | C(#C)[Mg]Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-[5-chloro-2-(4methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-propyn-1-ol | 1.05 g, 100% | ClC1=CC=2N(C=C1)N=C(C2C(C#C)O)C2=CC=C(C=C2)OC | C17H13ClN2O2
